US06403578B1
Preparation of 4-[(t-butoxycarbonyl)(aminomethyl)]phenol
4-(Aminomethyl)phenol [J. Med. Chem., 26, 808-813, 1983] was dissolved in dichloromethane (5 mL) and treated with 1N sodium hydroxide (4 mL) at 0° C. followed by di-t-butyl dicarbonate (610 mg, 2.8 mmol). The solution was allowed to warm to RT, stirred for 4 h and concentrated. The residue was purified by flash chromatography (silica gel, 2% methanol/chloroform) to give the title compound (440 mg). 1H NMR (250 MHz) δ7.06 (d, 2H), 6.78 (d, 2H), 4.95 (bs, 1H), 4.20-4.18 (m, 2H), 1.45 (s, 9H).

reactant | 4-(Aminomethyl)phenol | NCC1=CC=C(C=C1)O | C7H9NO
reactant | sodium hydroxide | 1N, 4 mL | [OH-].[Na+]
reactant | di-t-butyl dicarbonate | 2.8 mmol, 610 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-[(t-butoxycarbonyl)(aminomethyl)]phenol | 440 mg | C(C)(C)(C)OC(=O)C(C1=CC=C(C=C1)O)N | C12H17NO3
